US08748462B2
Methyl 4-(5-fluoro-2-methoxypyridin-4-yl)-3-(1-(methoxymethyl)cyclopentyl)benzoate (27.2)
To a suspension of sodium hydride (20.0 mg 60% in oil, 522 μmol) in DMF (1.0 mL) was slowly added methyl 4-(5-fluoro-2-methoxypyridin-4-yl)-3-(1-(hydroxymethyl)cyclopentyl)benzoate (75.0 mg, 209.0 μmol) at 0° C. The resulting mixture was stirred at room temperature for 30 minutes and then methyl iodide (296.0 mg, 2087 μmol) was added to the reaction mixture. The resulting mixture was stirred at room temperature overnight. EtOAc (60.0 mL) was added, and the organic layers were washed with brine (20×2 mL) and dried over MgSO4. The product was obtained after filtration and solvent removal. The product was used in the next step. MS ESI (pos.) m/e: 374.0 (M+H)+.

reactant | sodium hydride | 522 μmol, 20.0 mg | [H-].[Na+]
reactant | methyl 4-(5-fluoro-2-methoxypyridin-4-yl)-3-(1-(hydroxymethyl)cyclopentyl)benzoate | 209.0 μmol, 75.0 mg | FC=1C(=CC(=NC1)OC)C1=C(C=C(C(=O)OC)C=C1)C1(CCCC1)CO | C20H22FNO4
reactant | methyl iodide | 2087 μmol, 296.0 mg | CI | CH3I
reactant | EtOAc | 60.0 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | Methyl 4-(5-fluoro-2-methoxypyridin-4-yl)-3-(1-(methoxymethyl)cyclopentyl)benzoate | FC=1C(=CC(=NC1)OC)C1=C(C=C(C(=O)OC)C=C1)C1(CCCC1)COC | C21H24FNO4
